US08859574B2
To a microwave reaction tube was added 4-bromo-2-fluoro-5-(trifluoromethyl)aniline (256 mg, 1.0 mmol), 1-methylpiperazine (300 mg, 3 mmol) Pd2(dba)3 (91.5 mg, 0.1 mmol), di-tert-butyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (60 mg, 0.2 mmol), NaOtBu (144 mg, 1.5 mmol) and THF (3 mL). After the reaction tube was degassed and filled with N2, the tube was heated to 120° C. in a microwave reactor for 40 min. The mixture was then poured into saturated NH4Cl aqueous solution (10 mL) and extracted with EtOAc (3×10 mL). The organic layers were combined and concentrated. The residue was purified by flash column chromatography (silica gel, gradient MeOH/CH2Cl2, 0˜10%) to provide 2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline as a white solid. ESMS m/z 278.1 (M+H+).

reactant | 4-bromo-2-fluoro-5-(trifluoromethyl)aniline | 1.0 mmol, 256 mg | BrC1=CC(=C(N)C=C1C(F)(F)F)F | C7H4BrF4N
reactant | 1-methylpiperazine | 3 mmol, 300 mg | CN1CCNCC1 | C5H12N2
reactant | di-tert-butyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.2 mmol, 60 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | NaOtBu | 1.5 mmol, 144 mg | CC(C)(C)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-fluoro-4-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline | FC1=C(N)C=C(C(=C1)N1CCN(CC1)C)C(F)(F)F | C12H15F4N3
